US08022062B2
Use a method similar to the General Procedure 5-1 to couple 7-chloro-3-(2,2,2-trifluoroacetyl)-6-trifluoromethanesulfonyloxy-2,3,4,5-tetrahydro-1H-benzo[d]azepine (96 mg, 0.227 mmol) with (±)-2-(1-aminoethyl)-5-methylthiophene (48 mg, 0.34 mmol) using palladium(II) acetate (10 mg, 0.0454 mmol), BINAP (60 mg, 0.0908 mmol) and cesium carbonate (148 mg, 0.454 mmol) in toluene (10 mL). Purify by chromatography on silica gel eluting with hexane/EtOAc (1:0, 19:1) to give (±)-7-chloro-6-[1-(5-methylthiophen-2-yl)ethylamino]-3-(2,2,2-trifluoroacetyl)-2,3,4,5-tetrahydro-1H-benzo[d]azepine as an oil (47 mg, 50%). GC-MS m/z 416 (M+).

reactant | 7-chloro-3-(2,2,2-trifluoroacetyl)-6-trifluoromethanesulfonyloxy-2,3,4,5-tetrahydro-1H-benzo[d]azepine | 0.227 mmol, 96 mg | ClC1=C(C2=C(CCN(CC2)C(C(F)(F)F)=O)C=C1)OS(=O)(=O)C(F)(F)F | C13H10ClF6NO4S
reactant | (±)-2-(1-aminoethyl)-5-methylthiophene | 0.34 mmol, 48 mg | NC(C)C=1SC(=CC1)C | C7H11NS
reactant | BINAP | 0.0908 mmol, 60 mg | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
reactant | cesium carbonate | 0.454 mmol, 148 mg | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
catalyst | palladium(II) acetate | 0.0454 mmol, 10 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | (±)-7-chloro-6-[1-(5-methylthiophen-2-yl)ethylamino]-3-(2,2,2-trifluoroacetyl)-2,3,4,5-tetrahydro-1H-benzo[d]azepine | 47 mg, 50% | ClC1=C(C2=C(CCN(CC2)C(C(F)(F)F)=O)C=C1)NC(C)C=1SC(=CC1)C | C19H20ClF3N2OS
